US08232283B2
In a 3 ml vial equipped with a small triangular magnetic stirring bar was placed 6-(5-amino-2-chlorophenyl)-2-(2-(dimethylamino)ethylamino)-8-methoxypyrido[2,3-d]pyrimidin -7(8H)-one (165 μmol). A solution of 2-chloro-4-isocyanato-1-methoxybenzene in THF (2 mL, 129 mmol) was added, and the mixture was stirred at room temperature over night. The solvent was allowed to evaporate over night, and the remaining solid was dissolved in DMSO, transferred to maximum recovery HPLC vials and purified by prep. HPLC-MS. The collected fractions were transferred to centrifuge vials and lyophilized, giving 1-(4-chloro-3-(2-(2-(dimethylamino)ethylamino)-8-methoxy-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-6-yl)phenyl) -3-(3-chloro-4-methoxyphenyl)urea as a solid (56%).

reactant | 6-(5-amino-2-chlorophenyl)-2-(2-(dimethylamino)ethylamino)-8-methoxypyrido[2,3-d]pyrimidin -7(8H)-one | 165 μmol | NC=1C=CC(=C(C1)C1=CC2=C(N=C(N=C2)NCCN(C)C)N(C1=O)OC)Cl | C18H21ClN6O2
reactant | 2-chloro-4-isocyanato-1-methoxybenzene | ClC1=C(C=CC(=C1)N=C=O)OC | C8H6ClNO2
reactant | THF | 129 mmol, 2 mL | C1CCOC1 | C4H8O
product | 1-(4-chloro-3-(2-(2-(dimethylamino)ethylamino)-8-methoxy-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-6-yl)phenyl) -3-(3-chloro-4-methoxyphenyl)urea | 56% | ClC1=C(C=C(C=C1)NC(=O)NC1=CC(=C(C=C1)OC)Cl)C1=CC2=C(N=C(N=C2)NCCN(C)C)N(C1=O)OC | C26H27Cl2N7O4
